US04831148
A 500 ml polytetrafluoroethylene reactor equipped with stirrer, thermometer and reflux condenser is charged with 120 g of hydrogen fluoride. A solution of 40.7 g (0.25 mol) of 3-amino-2,5-dichloropyridine in 60 ml of dimethyl sulfoxide is added dropwise at a temperature in the range from 0° C. to +10° C. Over 11/2 hours, 24.7 g (0.325 mol) of dinitrogen trioxide are introduced into this solution at a temperature in the range from +°50 C. to 60° C. The resultant nitrogen is removed from the reactor through the reflux condenser. Gas evolution ceases after a total of 3 hours at 50° C. to 60° C. 150 ml of methylene chloride are added to the reaction mixture which is then poured into ice water. The two-phase mixture is neutralised with concentrated ammonia solution. The organic phase is separated and the aqueous phase is extracted several times with methylene chloride. The combined organic phases are dried over sodium sulfate. The solution is separated by distillation, affording 38.2 g (92.1% of theory) of 2,5-dichloro-3-fluoropyridine.

reactant | hydrogen fluoride | 120 g | F | FH
reactant | 3-amino-2,5-dichloropyridine | 0.25 mol, 40.7 g | NC=1C(=NC=C(C1)Cl)Cl | C5H4Cl2N2
reactant | dinitrogen trioxide | 0.325 mol, 24.7 g | N(=O)[N+](=O)[O-] | N2O3
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 2,5-dichloro-3-fluoropyridine | 38.2 g, 92.1% | ClC1=NC=C(C=C1F)Cl | C5H2Cl2FN
